US07795236B2
8-(3′-Benzyloxybiphenyl-4-ylmethylamino)-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine
A mixture of 8-bromo-2′,3′,5′-tris-O-(tert-butyl-dimethylsilyl)adenosine (0.660 g), 3′-benzyloxybiphenyl-4-ylmethylamine (0.832 g) and N,N-diisopropylethylamine (0.667 mL) in 1-propanol (9.6 mL) was heated under reflux with stirring for 62 hours. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate (35 mL) and 10% aqueous citric acid (10 mL). The organic layer was washed successively with 10% aqueous citric acid (10 mL×2), saturated aqueous sodium hydrogen carbonate (10 mL) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on aminopropylated silica gel (eluent: hexane/ethyl acetate=2/1) to give the title compound (0.716 g).

reactant | 8-bromo-2′,3′,5′-tris-O-(tert-butyl-dimethylsilyl)adenosine | 0.660 g | BrC=1N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C=2N=CN=C(C2N1)N | C28H54BrN5O4Si3
reactant | 3′-benzyloxybiphenyl-4-ylmethylamine | 0.832 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CN | C20H19NO
reactant | N,N-diisopropylethylamine | 0.667 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-propanol | 9.6 mL | C(CC)O | C3H8O
product | 8-(3′-Benzyloxybiphenyl-4-ylmethylamino)-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine | 0.716 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C=2N=CN=C(C2N1)N | C48H72N6O5Si3
